US05538987
2-butyl-4-chloro-5-hydroxymethyl-1-[(2'-methoxycarbonyl-1,1'-biphenyl-4-yl)methyl]-1H-imidazole
A solution of 4.8 g of 2-butyl-4-chloro-5-formyl-1-[(2'-methoxycarbonyl-1,1'-biphenyl-4-yl)methyl]-1H-imidazole in 100 ml of absolute ethanol is added with a solution of 0.44 g of NaBH4 in 10 ml of ethanol. The mixture is stirred at room temperature for 1 hour then is acidified with glacial CH3COOH to pH 4. The resulting solution is evaporated to dryness under reduced pressure and the residue is taken up into ether. The in soluble part is filtered, the ether solution is evaporated to dryness and the residue is stripped more times with toluene.

reactant | 2-butyl-4-chloro-5-formyl-1-[(2'-methoxycarbonyl-1,1'-biphenyl-4-yl)methyl]-1H-imidazole | 4.8 g | C(CCC)C=1N(C(=C(N1)Cl)C=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC | C23H23ClN2O3
reactant | NaBH4 | 0.44 g | [BH4-].[Na+]
reactant | CH3COOH | CC(=O)O | C2H4O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-butyl-4-chloro-5-hydroxymethyl-1-[(2'-methoxycarbonyl-1,1'-biphenyl-4-yl)methyl]-1H-imidazole | C(CCC)C=1N(C(=C(N1)Cl)CO)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC | C23H25ClN2O3
